US09402841B2
Step B: (S)-3-(1-((pyrrolidin-3-yloxy)methyl)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one
A mixture of (S)-tert-butyl 3-((3-cyanoisoquinolin-1-yl)methoxy)pyrrolidine-1-carboxylate (54.6 mg, 0.154 mmol) in NMP (0.4 mL), ethyl hydrazinecarboxylate (80 mg, 0.772 mmol) and DBU (0.012 mL, 0.077 mmol) was heated at 170° C. overnight and then filtered. The product in the filtrate was purified by mass-triggered HPLC eluting with a gradient of 35-60% ACN in water (acid mode). The product-containing fractions were concentrated in vacuo, treated with neat TFA (1 mL) for 5 minutes, and again concentrated in vacuo. The concentrate was dispersed in ACN/water (1:1) and lyophilized to give the title compound (7.5 mg, 16%). ESI-MS m/z [M+H]+ 312.6.

reactant | (S)-tert-butyl 3-((3-cyanoisoquinolin-1-yl)methoxy)pyrrolidine-1-carboxylate | 0.154 mmol, 54.6 mg | C(#N)C=1N=C(C2=CC=CC=C2C1)CO[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C20H23N3O3
reactant | ethyl hydrazinecarboxylate | 0.772 mmol, 80 mg | N(N)C(=O)OCC | C3H8N2O2
reactant | DBU | 0.077 mmol, 0.012 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | NMP | 0.4 mL | CN1CCCC1=O | C5H9NO
product | (S)-3-(1-((pyrrolidin-3-yloxy)methyl)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one | 7.5 mg, 16% | N1C[C@H](CC1)OCC1=NC(=CC2=CC=CC=C12)C1=NNC(N1)=O | C16H17N5O2
